US04155747
EXAMPLE 1: Preparation of 3-(3-chloro-4-isopropyl-phenyl)-5-methyl-tetrahydro-1,3,5-oxadiazin-4-one
N-(3-Chloro-4-isopropyl-phenyl)-N',N'-dimethylurea (22.65 g.=0.1 mol) is dissolved in a solvent mixture comprising dioxane (50 cc.) and benzene (80 cc.). After adding p-toluenesulphonic acid (1 g.) and polyoxymethylene (8.1 g.), the solution is heated under reflux for 1 hour in a flask equipped with a Dean and Stark apparatus with a reflux condenser. 3.7 cc. of aqueous phase are collected.

reactant | N-(3-Chloro-4-isopropyl-phenyl)-N',N'-dimethylurea | 0.1 mol, 22.65 g | ClC=1C=C(C=CC1C(C)C)NC(=O)N(C)C | C12H17ClN2O
reactant | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | polyoxymethylene | 8.1 g | O(C[*:2])[*:1]
reactant | dioxane | 50 cc | O1CCOCC1 | C4H8O2
solvent | benzene | 80 cc | C1=CC=CC=C1 | C6H6
product | 3-(3-chloro-4-isopropyl-phenyl)-5-methyl-tetrahydro-1,3,5-oxadiazin-4-one | ClC=1C=C(C=CC1C(C)C)N1COCN(C1=O)C | C13H17ClN2O2
